US08685959B2
Synthesis of ((R)-4-(1-((R)-1-(2,4-dichlorophenyl)ethyl)-1H-benzo[1,2,3]triazol-6-yl)-2-methylpiperazin-1-yl)((R)-pyrrolidin-2-yl)methanone (see FIG. 23)
To a stirred solution of 1-((R)-1-(2,4-dichlorophenyl)ethyl)-6-((R)-3-methylpiperazin-1-yl)-1H-benzo[d][1,2,3]triazole (0.075 g, 0.19 mmol) and (R)-1-(t-butoxycarbonyl)pyrrolidine-2-carboxylic acid (0.048 g, 0.22 mmol) in DMF (1.5 mL) was added HATU (0.090 g, 0.23 mmol) and iPr2NEt (0.064 mg, 0.48 mmol). The reaction mixture was stirred at room temperature for 30 min, and diluted with diethyl ether. The mixture was washed with deionized water, and the aqueous layer was extracted with diethyl ether (2×20 mL). The combined organic layers were dried (Na2SO4), filtered, and concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, 5-20% methanol in dichloromethane) to afford the desired product (0.075 g, 0.13 mmol, 67%).

reactant | 1-((R)-1-(2,4-dichlorophenyl)ethyl)-6-((R)-3-methylpiperazin-1-yl)-1H-benzo[d][1,2,3]triazole | 0.19 mmol, 0.075 g | ClC1=C(C=CC(=C1)Cl)[C@@H](C)N1N=NC2=C1C=C(C=C2)N2C[C@H](NCC2)C | C19H21Cl2N5
reactant | (R)-1-(t-butoxycarbonyl)pyrrolidine-2-carboxylic acid | 0.22 mmol, 0.048 g | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C(=O)O | C10H17NO4
reactant | HATU | 0.23 mmol, 0.090 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | iPr2NEt | 0.48 mmol, 0.064 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | ((R)-4-(1-((R)-1-(2,4-dichlorophenyl)ethyl)-1H-benzo[1,2,3]triazol-6-yl)-2-methylpiperazin-1-yl)((R)-pyrrolidin-2-yl)methanone | 0.13 mmol, 0.075 g, 67% | ClC1=C(C=CC(=C1)Cl)[C@@H](C)N1N=NC2=C1C=C(C=C2)N2C[C@H](N(CC2)C(=O)[C@@H]2NCCC2)C | C24H28Cl2N6O
